US08859602B2
c) 4-(4-Amino-3-bromo-phenyl)-tetrahydro-pyran-4-carboxylic acid methyl ester
To a solution of 4-(4-amino-phenyl)-tetrahydro-pyran-4-carboxylic acid methyl ester (as prepared in the previous step, 1.65 g, 7.01 mmol) in 100 mL of 1:1 DCM/CH3CN at 0° C. was slowly added N-bromosuccinimide (NBS) (1.25 g, 7.01 mmol) in 25 mL of 1:1 DCM/CH3CN under Ar. After stirring at 0° C. for 0.5 h, the mixture was treated with 50 mL of EtOAc and washed with H2O (2×30 mL) and brine H2O (20 mL). The organic layer was dried (Na2SO4) and concentrated in vacuo. The residue was purified by flash chromatography on silica gel (1-4% EtOAc/DCM) to give 1.85 g (84%) of the title compound as a white solid. Mass spectrum (ESI, m/z): Calcd. for C13H16BrNO3, 314.0 (M+H). found 314.2.

reactant | 4-(4-amino-phenyl)-tetrahydro-pyran-4-carboxylic acid methyl ester | COC(=O)C1(CCOCC1)C1=CC=C(C=C1)N | C13H17NO3
reactant | N-bromosuccinimide | 7.01 mmol, 1.25 g | BrN1C(CCC1=O)=O | C4H4BrNO2
reactant | EtOAc | 50 mL | CCOC(=O)C | C4H8O2
solvent | DCM CH3CN | 100 mL | C(Cl)Cl.CC#N
solvent | DCM CH3CN | 25 mL | C(Cl)Cl.CC#N
product | 4-(4-Amino-3-bromo-phenyl)-tetrahydro-pyran-4-carboxylic acid methyl ester | 1.85 g, 84% | COC(=O)C1(CCOCC1)C1=CC(=C(C=C1)N)Br | C13H16BrNO3
